### PR TITLE
feat: dt and curl commute

### PR DESCRIPTION
**Pull request by zhikaip**
Cleaned this up, feel free to suggest any renaming/restructuring of files and lemmas

### CODE REVIEW

File: PhysLean/ClassicalMechanics/VectorProperties.lean [hunk 1]
```diff
@@ -0,0 +1,156 @@
...
+  /- Start of differentiablity conditions. -/
+  · fun_prop
+  · apply fderiv_curry_differentiableAt_fst_comp_snd
+    exact hf
+  · exact hf
+  · fun_prop
+  · apply fderiv_curry_differentiableAt_snd_comp_fst
+    exact hf
+
+lemma differentiable_fderiv_coord_single
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/VectorProperties.lean]: Maybe change to `differentiableAt_fderiv_coord_single`

File: PhysLean/ClassicalMechanics/VectorProperties.lean [hunk 2]
```diff
@@ -0,0 +1,156 @@
...
+Authors: Zhi Kai Pong, Joseph Tooby-Smith
+-/
+import PhysLean.Mathematics.FDerivCurry
+import PhysLean.ClassicalMechanics.Space.VectorIdentities
+import PhysLean.ClassicalMechanics.Time.Basic
+import Mathlib.Tactic.FunProp.Differentiable
+/-!
+# Classical vector calculus properties
+
+Vector calculus properties under classical spacetime derivatives.
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/VectorProperties.lean]: Can we change this to:

"Vector calculus properties under classical space and time derivatives."

File: PhysLean/ClassicalMechanics/VectorProperties.lean [hunk 3]
```diff
@@ -0,0 +1,156 @@
+/-
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/VectorProperties.lean]: Maybe a better title for this file would be VectorFields.

**Comment by jstoobysmith** [comment]
By the way, just in case you are not aware. You can run the linters locally using:

```
lake exe lint_all
./scripts/lint-style.sh
```

This is sometimes quicker than using the GitHub linters as you don't have to wait for them to build the whole project. 
(They are a bit more strict than the GitHub ones though - in the sense that they complain about a bit more).

**Comment by zhikaip** [comment]
updated according to feedback :)

**Review by jstoobysmith — APPROVED** [review]
Looks good. Many thanks - approved for merger :).
